Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I guess I've been feeling stressed." 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
For further details surrounding the history and presentation, 
please see OMR including Dr. ___ initial note dated 
___ and Dr. ___ note dated ___. 
.
Briefly, this is an ___ year old single woman currently a 
freshman at ___, history of depression, 
anxiety, self injurious behaviors, no prior psychiatric 
hospitalizations or suicide attempts, no prior medication 
trials, who presented to ___ via EMS for worsening depression 
in the setting of numerous ongoing psychosocial stressors 
including academic pressures. 
. 
Upon initial interview with Dr. ___, patient reported 
that on the evening prior to presentation, she had been on the 
phone with her boyfriend and sounded like she was "panicking," 
as her boyfriend knew she had self harmed in the past, he called 
___, who called EMS. Ms. ___ reported 
feeling quite stressed about school, stating she was pledging 
for a co-ed fraternity, works as an ___ for a start up, and had 
numerous school projects due that week. Also stated she was 
stressed regarding her relationship with her boyfriend, stating 
she had cheated on him and feels guilty for this, as he does not 
know. Patient stated she was studying in the library when she 
began thinking of these things, became anxious, nauseous, threw 
up with mild shortness of breath, sense of doom. Reported prior 
panic
attacks in the past with history of cutting, last time 2.5 weeks 
ago. Of note, boyfriend reports that his brother had recently 
completed suicide, which heightened his concern. 
.
Ms. ___ reported feeling depressed since ___ with 
fluctuations in eating, poor sleep, poor concentration, feelings 
of guilt and decreased interest. Reported sluggish energy. 
Reported some suicidal ideation but unclear if intent or plan. 
.
ED Course: Patient was in good behavioral control and did not 
require physical or chemical restraints.  
.
Upon interview with Ms. ___, who was a very reluctant 
historian who minimized her presentation, she stated she came to 
the hospital after her boyfriend called ___. Stated, "I guess 
I've been stressed... I don't know, it's been hard balancing 
school and everything." Stated she is from ___ and that 
she started ___ last month. She noted the 
transition has been "fine," and that she was taking 18 credits. 
Reluctantly admits she has been having difficulty managing her 
schedule, "because I guess I'm here." Reported depressed mood, 
stating she does not enjoy anything. Days are spent going to 
school, meetings, working. In this setting, stated she has been 
having some difficulty sleeping, about 2 hours at night with 
difficulty initiating and maintaining sleep. Reported feelings 
of guilt, poor energy, impaired concentration. Denied 
difficulties with appetite or changes in weight. Admitted to 
thoughts of suicide but refused to elaborate. 
.
On psychiatric review of systems, patient reported history of 
insomnia in the past but without excessive energy. Reportedly 
has misused Adderall in order to study, up to 100 mg per day 
with decreased need for sleep. Has history of impulsivity where 
she would leave home for "vacation" in ___ and then email 
her mother she had left. Admitted to history of reactive mood, 
periods of irritability. Denies history of AVH, paranoia. Denies 
eating disordered behavior including restriction/binging and 
purging. Reported history of panic attacks.
 
Past Medical History:
Past psychiatric history: Per OMR, confirmed with patient. 
Patient denies history of formal diagnoses, denies history of
suicide attempts. Reports history of cutting to relieve stress
starting at age ___. Stated she had stopped but recently started 
cutting again with last episode about 2 weeks ago. No prior 
psychiatric hospitalizations, no prior medication trials. 
Currently no psychiatrist but does see a therapist at
___. 
.
Past medical history:
Denies 
 
Social History:
___
Family History:
Family psychiatric history:
- Diagnoses: patient reports her father has history of bipolar
disorder, sister with depression.
- SA: patient denies
- Addictions: denies

 
Physical Exam:
VS: 98.2 102/69 58 16 98%RA 
A/B: Appears stated age, dressed casually, good hygiene and 
grooming, calm, cooperative with interviewer, good hygiene and 
grooming 
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair
 
Pertinent Results:
___ 05:20AM   GLUCOSE-92 UREA N-6 CREAT-0.6 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-23 ANION GAP-17
___ 05:20AM   estGFR-Using this
___ 05:20AM   TSH-1.8
___ 05:20AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:20AM   WBC-11.0* RBC-4.38 HGB-13.2 HCT-39.3 MCV-90 
MCH-30.1 MCHC-33.6 RDW-12.1 RDWSD-39.6
___ 05:20AM   NEUTS-49 BANDS-0 ___ MONOS-8 EOS-0 
BASOS-0 ATYPS-2* ___ MYELOS-0 AbsNeut-5.39 AbsLymp-4.73* 
AbsMono-0.88* AbsEos-0.00* AbsBaso-0.00*
___ 05:20AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL OVALOCYT-1+ 
BURR-OCCASIONAL
___ 05:20AM   PLT SMR-NORMAL PLT COUNT-371
___ 05:10AM URINE  HOURS-RANDOM
___ 05:10AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:10AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:10AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:10AM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-2
___ 05:10AM URINE  MUCOUS-RARE
___ 04:05AM URINE  HOURS-RANDOM
___ 04:05AM URINE  UCG-NEGATIVE
 
Brief Hospital Course:
This is an ___ year old single woman currently a freshman at 
___, history of depression, anxiety, self 
injurious behaviors, no prior psychiatric hospitalizations or 
suicide attempts, no prior medication trials,
who presented to ___ via EMS for worsening depression in the 
setting of numerous ongoing psychosocial stressors. 
. 
Interviews significant for worsening depression with low mood, 
disruption in sleep, poor concentration and energy, anhedonia in 
the setting of academic stressors. Given this and mental status 
examination that is notably for dysthymic affect, believe she 
likely does meet criteria for MDD, without psychotic features 
vs. adjustment disorder with depressed mood. Given history of 
bipolar in father, and young age, cannot rule out underlying 
bipolar disorder, although no clear history of mania at this 
time. Of note, denies AVH, paranoia, nothing on examination to 
suggest thought disorder-- underlying primary psychosis seems 
less likely at this point. Furthermore, given young age and good 
health, mood disorder secondary to medical condition is 
unlikely. Substance use with cannabis and alcohol use may be 
contributing but also less likely given negative tox screen and 
reported infrequent use. 
. 
#. Legal/Safety: patient admitted on a ___, upon 
admission, refused to sign a CV. ___ expired on day of 
discharge, given her consistent denial of suicidal ideation, 
thoughts of self harm, and good behavioral control throughout 
her admission, I did not feel she met criteria to file 7&8b at 
this time. Of note, she did not require physical or chemical 
restraints during this admission

#. Depression: as above 
- Patient attended some groups and was compliant with meeting 
with her treatment team. With the patient's permission, I 
contacted her mother, who was supportive of her treatment and 
denied any prior suicide attempts or safety concerns. 
- After discussion of the risks and benefits, we initiated 
Zoloft at 25 mg po qd and was titrated to 50 mg po qd. She 
tolerated this well with no complaints of side effects. 
- Of note, for agitation, Risperidone 0.5 mg po prn and Ativan 
0.5 mg po prn were initiated, but patient did not require doses 
- For insomnia, after discussion of the risks and benefits, 
started Ambien 5 mg po qhs with improvement in sleep
- In the setting of the stabilizing environment of the milieu 
and on above medications, patient reported "okay" mood and 
consistently denied suicidal ideation or thoughts of self harm 
throughout her admission. Thought process was noted to be 
consistently linear, goal and future oriented throughout her 
admission. She did demonstrate some improved insight regarding 
how psychosocial stressors could be contributing to her 
presentation and agreed to stop working as an RA for the start 
up company. 

#. Medical: no acute issues 

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0 
2.  Zolpidem Tartrate 5 mg PO QHS 
RX *zolpidem 5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressed mood 

 
Discharge Condition:
VS: 98.2   102/69   58    16    98%RA 
A/B: Appears stated age, dressed casually, good hygiene and 
grooming, calm, cooperative with interviewer, good hygiene and 
grooming 
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair

 
Discharge Instructions:
You were hospitalized at ___ for worsening depression, urges 
to cut.  While you were here we started an antidepressant and 
your condition improved. You are now ready for discharge with 
continued treatment at your local school.

 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
 -Please continue all medications as directed.
 -Please do not misuse alcohol or drugs (whether prescription 
drugs or illegal drugs) as this can further worsen your medical 
and psychiatric illnesses.
 -Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
 -Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 

 
Followup Instructions:
___